US05011927
Preparation of 4,6-difluoro-2-n-propylaminopyrimidine (Variant A)
13.0 g (0.22 mol) of n-propylamine were added at -20° C. to a mixture of 13.4 g (0.1 mol) of 2,4,6-trifluoropyrimidine in 150 ml of diethyl ether within 20 minutes. After stirring at -20° C. for 1 hour and at 25° C. for 1 hour, the precipitate was filtered off, and the organic phase was washed with water, dried and concentrated under reduced pressure. 15.8 g (91.3% of theory) of the title compound were obtained as an oil (nD23 =1.4965).

reactant | n-propylamine | 0.22 mol, 13.0 g | C(CC)N | C3H9N
reactant | 2,4,6-trifluoropyrimidine | 0.1 mol, 13.4 g | FC1=NC(=CC(=N1)F)F | C4HF3N2
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 4,6-difluoro-2-n-propylaminopyrimidine | FC1=NC(=NC(=C1)F)NCCC | C7H9F2N3
